US07863332B2
13.1 g (0.039 mol, 2.2 eq) of methyl (triphenylphosphoranylidene)acetate are added to a solution of 2.5 g (0.0178 mol, 1 eq) of 3-fluoro-4-hydroxybenzaldehyde in 30 ml of toluene. The reaction mixture is heated at 80° C. for 2 hours. The reaction medium is hydrolyzed in water and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over sodium sulfate. The solvent is evaporated off and the oil obtained is chromatographed on silica gel (70/30 heptane/ethyl acetate). 2.7 g of methyl (E)-3-(3-fluoro-4-hydroxyphenyl)acrylate are obtained in solid form. Yield=78%

reactant | methyl (triphenylphosphoranylidene)acetate | 0.039 mol, 13.1 g, 2.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | 3-fluoro-4-hydroxybenzaldehyde | 0.0178 mol, 2.5 g, 1 eq | FC=1C=C(C=O)C=CC1O | C7H5FO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | methyl (E)-3-(3-fluoro-4-hydroxyphenyl)acrylate | 2.7 g, Yield=78% | FC=1C=C(C=CC1O)/C=C/C(=O)OC | C10H9FO3
